US04670438
8-(2-Methoxy-4-hydroxy-phenyl)-purin-2-one
1,3-dimethyl-8-(2-methoxy-4-hydroxy-phenyl)-1H,3H-purin-2,6-dione (hydrogenation in the presence of two equivalents of potassium hydroxide).

reactant | 1,3-dimethyl-8-(2-methoxy-4-hydroxy-phenyl)-1H,3H-purin-2,6-dione | CN1C(N(C=2N=C(NC2C1=O)C1=C(C=C(C=C1)O)OC)C)=O | C14H14N4O4
reactant | potassium hydroxide | two equivalents | [OH-].[K+]
product | 8-(2-Methoxy-4-hydroxy-phenyl)-purin-2-one | COC1=C(C=CC(=C1)O)C1=NC2=NC(N=CC2=N1)=O | C12H8N4O3
